### ISSUE TITLE
autoParam in structure fields lost in inheritance

### ISSUE THREAD

**Issue by raghuram-13** [leanprover/lean4#1158]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

`autoParam`s defined for fields of a structure `A` are sometimes lost in structures `B` extending them (as far as I can tell, when `A` is not the first structure `B` inherits from).

### Steps to Reproduce

```
class magma (α) where op : α → α → α

infix:70 " ⋆ " => magma.op (self := inferInstance)

class leftIdMagma (α) extends magma α where
  identity : α
  id_op (a : α) : identity ⋆ a = a := by intro; rfl

class rightIdMagma (α) extends magma α where
  identity : α
  op_id (a : α) : a ⋆ identity = a := by intro; rfl

class semigroup (α) extends magma α where
  assoc (a b c : α) : (a ⋆ b) ⋆ c = a ⋆ (b ⋆ c) := by intro _ _ _; rfl

class idMagma (α) extends leftIdMagma α, rightIdMagma α

class monoid (α) extends idMagma α, semigroup α

def fnCompMonoid {base : Sort _} : monoid (base → base) :=
{ op := Function.comp, identity := id
-- , op_id := by intro; rfl
-- , assoc := by intros; rfl
}
```

**Expected behavior:** `fnCompMonoid` is successfully defined with the `op_id` and `assoc` fields produced using the tactics specified for those fields.

**Actual behavior:** The `op_id` and `assoc` fields need to be specified as in the commented-out lines.

**Reproduces how often:** Only for fields inherited from a parent structure other than the first parent of a structure (as far as I can tell).

### Versions
- 4th milestone release
- d13fac6f458b

### Additional Information
The above example worked in a nightly version from October 2021.

**Comment by raghuram-13** [comment]
Based on this example, it seems that `autoParam`s for fields of `B` fail to transfer to structures `E` extending it if one of the fields of `B` has a type dependent on another field which is common to the first structure `E` extends.  If this happens, then it fails to transfer for *all* fields of `B`, even those whose type is not dependent like this.

```
structure A (α) where
  subsingleton : ∀ a b : α, a = b := by assumption

structure B (α) where
  op : α → α → α
  idempotent : ∀ a : α, op a a = a := by assumption
  fav : α := by assumption

structure C (α) where
  op : α → α → α
  comm : ∀ a b : α, op a b = op b a := by assumption

structure D (α) extends A α, B α
structure E (α) extends C α, B α

-- Let's reuse these
theorem s (a b : Unit) : a = b := rfl
def op (_ _ : Unit) : Unit := ()
def i (a : Unit) : op a a = a := s _ a
def c (a b : Unit) : op a b = op b a := s _ _

-- Successfully defined
def d : D Unit := have := s; have := i; have := ()
                  { op }

-- fields `idempotent` and `fav` are missing
def e : E Unit := have := c; have := i; have := ()
                  { op --, idempotent := i, fav := ()
                    }

structure F (α) extends D α, E α
structure G (α) extends E α, D α

-- `comm` alone missing
def f : F Unit := have := s; have := i; have := c; have := ()
                  { op --, comm := c
                    }
-- `idempotent`, `fav` missing
def g : G Unit := have := s; have := i; have := c; have := ()
                  { op --, idempotent := i, fav := ()
                    }
```
